US07465795B2
4-amino-N-cyclopropyl-8-(2,4-dimethoxyphenyl)cinnoline-3-carboxamide
Using Method A, 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide (143 mg, 0.47 mmol) and 2,4-dimethoxyphenylboronic acid (171 mg, 0.94 mmol) were reacted. After purification the title compound (136 mg, 80% yield) was obtained as a white solid. 1H NMR (500 MHz, DMSO-d6) δ 9.00 (d, J=4.8 Hz, 1H), 8.35 (d, J=8.4 Hz, 1H), 7.72 (t, J=7.7 Hz, 1H), 7.68 (ad, J=7.1 Hz, 1H), 7.18 (d, J=8.3 Hz, 1H), 6.66 (s, 1H), 6.59 (ad, J=8.3 Hz, 1H), 3.83 (s, 3H), 3.61 (s, 3H), 2.96 (m, 1H), 0.70(m, 4H). MS APCI, m/z=365.

reactant | 4-amino-8-bromo-N-cyclopropyl-cinnoline-3-carboxamide | 0.47 mmol, 143 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NC1CC1 | C12H11BrN4O
reactant | 2,4-dimethoxyphenylboronic acid | 0.94 mmol, 171 mg | COC1=C(C=CC(=C1)OC)B(O)O | C8H11BO4
product | 4-amino-N-cyclopropyl-8-(2,4-dimethoxyphenyl)cinnoline-3-carboxamide | 136 mg, 80% yield | NC1=C(N=NC2=C(C=CC=C12)C1=C(C=C(C=C1)OC)OC)C(=O)NC1CC1 | C20H20N4O3
